US07217724B2
N-(3-((2R)-2-((5R)-5-(3-Chlorophenyl)-2-oxo-1,3-oxazolidin-3-yl)propyl)-1H-indol-7-yl)propanamide
To a solution of (5R)-3-((1R)-2-(7-amino-1H-indol-3-yl)-1-methylethyl)-5-(3-chlorophenyl)-1,3-oxazolidin-2-one (28.4 mg, 0.0768 mmol) in tetrahydrofuran (1 mL) are added triethylamine (13.5 μL, 0.0969 mmol) and propionyl chloride (8 μL, 0.0921 mmol) under nitrogen atmosphere, and the mixture is stirred at room temperature for 1 hour. The reaction solution is poured into water, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, and dried over anhydrous sodium sulfate. The solvent is evaporated, and the obtained crude product is purified by preparative thin layer chromatography (n-hexane:ethyl acetate=1:1) to give the title compound (34.3 mg, yield: 100%).

reactant | (5R)-3-((1R)-2-(7-amino-1H-indol-3-yl)-1-methylethyl)-5-(3-chlorophenyl)-1,3-oxazolidin-2-one | 0.0768 mmol, 28.4 mg | NC=1C=CC=C2C(=CNC12)C[C@@H](C)N1C(O[C@@H](C1)C1=CC(=CC=C1)Cl)=O | C20H20ClN3O2
reactant | triethylamine | 0.0969 mmol, 13.5 μL | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.0921 mmol, 8 μL | C(CC)(=O)Cl | C3H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-(3-((2R)-2-((5R)-5-(3-Chlorophenyl)-2-oxo-1,3-oxazolidin-3-yl)propyl)-1H-indol-7-yl)propanamide | 34.3 mg, yield: 100% | ClC=1C=C(C=CC1)[C@@H]1CN(C(O1)=O)[C@@H](CC1=CNC2=C(C=CC=C12)NC(CC)=O)C | C23H24ClN3O3
